US07402592B2
Ethyl 7-(trifluoromethylsulfonyloxy)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate
Lithium diisopropylamide (LDA) was formed at −78° C. by adding 2.5 M n-butyllithium (3.3 ml, 8.2 mmol) to diisopropylamine (1.16 ml, 8.28 mmol) in THF (100 ml), followed by stirring for 30 min under nitrogen. The LDA was then transferred by cannula into a stirring solution of ethyl 7-oxo-3-azabicyclo[3.3.1]nonane-3-carboxylate (1.16 g, 5.49 mmol) in THF (50 ml) at −78° C. The solution was allowed to warm to −40° C. over 45 min, at which point 2-[N,N-bis(trifluoromethylsulfonyl) amino]-5-chloropyridine (4.32 g, 11.0 mmol) was added in one portion. The reaction was allowed to stir and warm to 0° C. over 2 h, at which point it was quenched with saturated sodium bicarbonate solution (100 ml). The layers were separated and the aqueous layer was extracted with ether (2×25 ml). The combined organics were then washed with 1 N HCl (100 ml), saturated solutions of sodium bicarbonate and brine (1×50 ml each), dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue was then purified by column chromatography, using a hexane/ethyl acetate gradient (20-40% ethyl acetate) as eluent, to obtain a light yellow oil (1.31 g, 69.7%).

reactant | n-butyllithium | 8.2 mmol, 2.5 M, 3.3 ml | C(CCC)[Li]
reactant | diisopropylamine | 8.28 mmol, 1.16 ml | C(C)(C)NC(C)C | C6H15N
reactant | LDA | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl 7-oxo-3-azabicyclo[3.3.1]nonane-3-carboxylate | 5.49 mmol, 1.16 g | O=C1CC2CN(CC(C1)C2)C(=O)OCC | C11H17NO3
reactant | 2-[N,N-bis(trifluoromethylsulfonyl) amino]-5-chloropyridine | 11.0 mmol, 4.32 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl 7-(trifluoromethylsulfonyloxy)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate | 1.31 g, 69.7% | FC(S(=O)(=O)OC1=CC2CN(CC(C1)C2)C(=O)OCC)(F)F | C12H16F3NO5S
